US07772285B2
1.00 g of methyl 3-formyl-1-benzothiophene-7-carboxylate was dissolved in a mixed solution of 15 mL of ethanol and 15 mL of tetrahydrofuran, to which 86 mg of sodium borohydride was added at room temperature, and this solution was stirred for one hour at the same temperature. After acetone was added dropwise to the reaction mixture, from which the solvent was distilled out under reduced pressure, followed by addition of ethyl acetate and water, and this mixture was adjusted to pH 6 with 6M hydrochloric acid, and the organic phase was separated therefrom. After the resultant organic phase was washed with water and a saturated sodium chloride solution successively, the washed phase was dried over anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure to yield 0.97 g of methyl 3-(hydroxymethyl)-1-benzothiophene-7-carboxylate as light yellow solid.

reactant | methyl 3-formyl-1-benzothiophene-7-carboxylate | 1.00 g | C(=O)C1=CSC2=C1C=CC=C2C(=O)OC | C11H8O3S
reactant | sodium borohydride | 86 mg | [BH4-].[Na+]
reactant | acetone | CC(=O)C | C3H6O
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | methyl 3-(hydroxymethyl)-1-benzothiophene-7-carboxylate | 0.97 g | OCC1=CSC2=C1C=CC=C2C(=O)OC | C11H10O3S
